US08217064B2
Ethyl 2-(3-(cyclopropylmethoxy)-4-nitrophenyl)acetate (5 g, 17.9 mmol) was dissolved in 50 mL anhydrous DMF, NaH (60% wt. in oil, 0.475 g, 19.7 mmol) was added at 0° C. The reaction mixture was stirred for 0.5 h at 25° C. and cyclopropylmethyl bromide (2.67 g, 19.7 mmol) was added drop wise at 0° C. The reaction mixture was stirred at 0° C. for 1 h and saturated NH4Cl solution (10 mL) was added. The reaction mixture was extracted with EtOAc (3×20 mL) and the combined organic phases were washed with water (3×20 mL) and brine (20 mL), dried over MgSO4, filtered and concentrated under reduced pressure to give ethyl 3-cyclopropyl-2-(3(cyclopropylmethoxy)-4-nitrophenyl)propanoate (4 g) as a colorless oil.

reactant | Ethyl 2-(3-(cyclopropylmethoxy)-4-nitrophenyl)acetate | 17.9 mmol, 5 g | C1(CC1)COC=1C=C(C=CC1[N+](=O)[O-])CC(=O)OCC | C14H17NO5
reactant | NaH | 19.7 mmol, 0.475 g | [H-].[Na+]
reactant | cyclopropylmethyl bromide | 19.7 mmol, 2.67 g | C1(CC1)CBr | C4H7Br
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | ethyl 3-cyclopropyl-2-(3(cyclopropylmethoxy)-4-nitrophenyl)propanoate | 4 g | C1(CC1)CC(C(=O)OCC)C1=CC(=C(C=C1)[N+](=O)[O-])OCC1CC1 | C18H23NO5
